### PR TITLE
[Merged by Bors] - chore(Analysis/Normed/Algebra/Spectrum): split file and reduce imports

### PR DESCRIPTION
**Pull request by j-loreaux**
This file is currently a *very* heavy import as it relies on Liouville's theorem to prove that the spectrum is nonempty, as well as the Cauchy integral formula to prove Gelfand's formula.

We split out these results into a separate file to significantly reduce the import burden.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Algebra/GelfandFormula.lean [hunk 1]
```diff
@@ -0,0 +1,180 @@
...
+protected theorem map_pow (a : A) (n : ℕ) :
+    spectrum ℂ (a ^ n) = (· ^ n) '' spectrum ℂ a := by
+  simpa only [aeval_X_pow, eval_pow, eval_X] using map_polynomial_aeval a (X ^ n)
+
+end Nontrivial
+
+omit [CompleteSpace A] in
+theorem algebraMap_eq_of_mem (hA : ∀ {a : A}, IsUnit a ↔ a ≠ 0) {a : A} {z : ℂ}
+    (h : z ∈ spectrum ℂ a) : algebraMap ℂ A z = a := by
+  rwa [mem_iff, hA, Classical.not_not, sub_eq_zero] at h
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Algebra/GelfandFormula.lean:155]: this looks like it can go in a much earlier file as it doesn't really use anything here

Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Algebra/GelfandFormula.lean:155]: could it? sure, but the hypothesis is the relevant thing. The only real purpose of this result is its use in the next one. If you want to generalize it in another PR that's fine.

Comment (themathqueen) [reply Mathlib/Analysis/Normed/Algebra/GelfandFormula.lean:155]: Maybe. I don't know if we'll ever actually use the result outside of this file though. So probably not worth it. But maybe we should set the theorem as `private`?

Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Algebra/GelfandFormula.lean:155]: Again, let's separate concerns here. If we want to modify this declaration somehow, let's do it in a different PR. There's no reason it needs to or should happen here.

**Comment by dupuisf** [comment]
Looks good!

bors r+
